US08232272B2
N-(4-propanoylphenyl)acetamide
To 400 ml of toluene are added 30 g of 1-(4-aminophenyl)propan-1-one and 38 ml (402 mM) of acetic anhydride. The reaction medium is heated at 60° C. with stirring for 1 hour. A solid precipitates out. After filtration and washing with toluene, 37.9 g of N-(4-propanoylphenyl)acetamide are obtained in the form of a white powder.

reactant | 1-(4-aminophenyl)propan-1-one | 30 g | NC1=CC=C(C=C1)C(CC)=O | C9H11NO
reactant | acetic anhydride | 402 mM, 38 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | toluene | 400 ml | C1(=CC=CC=C1)C | C7H8
product | N-(4-propanoylphenyl)acetamide | C(CC)(=O)C1=CC=C(C=C1)NC(C)=O | C11H13NO2
